US04200628
To a solution of 61.8 g (0.3 mole) of dicyclohexylcarbodiimide in 400 ml of dry dimethylsulfoxide is dropwise added a solution of 19.10 g (0.1 mole) of 1-benzyl-3-hydroxymethylpyrrolidine [prepared in the manner described in J. O. C. 26, 1519 (1961) by YAO-HUA WU and R. F Feldkamp] under ice-cooling for 15 minutes, and the mixture is stirred at room temperature overnight. Dicyclohexylcarbodiimide (13.26 g; 60 mmoles) and phosphorus pentachloride (4.40 g; 30 mmoles) are added thereto and the mixture is stirred overnight, poured into ice water, mixed with 300 ml of methylene chloride and stirred for 30 minutes. The insoluble materials, which appear, are filtered off and washed with water. The combined filtrate and washings are washed twice with 200 ml of methylene chloride, adjusted to pH 9 with 20 (w/w) % aqueous sodium carbonate solution, and extracted four times with 200 ml of methylene chloride. The extract is washed with 20 (w/w) % aqueous sodium hydrogensulfite solution. The aqueous layer is separated, washed thrice with 100 ml of methylene chloride, mixed with 20 (w/w) % aqueous sodium carbonate solution, and extracted with methylene chloride. The extract is washed with water, dried over sodium sulfate and evaporated under reduced pressure to yield crude oily 1-benzyl-3-formylpyrrolidine in 66% yield.

reactant | dicyclohexylcarbodiimide | 0.3 mole, 61.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-benzyl-3-hydroxymethylpyrrolidine | 0.1 mole, 19.10 g | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
reactant | Dicyclohexylcarbodiimide | 60 mmoles, 13.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phosphorus pentachloride | 30 mmoles, 4.40 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 400 ml | CS(=O)C | C2H6OS
product | 1-benzyl-3-formylpyrrolidine | 66% yield | C(C1=CC=CC=C1)N1CC(CC1)C=O | C12H15NO
